US08114902B2
(19-3) Synthesis of 2-amino-2-{2-[2′-fluoro-4′-(4-methylphenoxy)biphenyl-4-yl]ethyl}propane-1,3-diol
N-{1,1-Bis(acetoxymethyl)-3-[2′-fluoro-4′-(4-methylphenoxy)biphenyl-4-yl]propyl}acetamide (0.26 g) was dissolved in methanol (10 mL), 1M aqueous lithium hydroxide solution (10 mL) was added, and the mixture was refluxed with stirring for 2 hr. The reaction mixture was concentrated, and the precipitated crystals were collected by filtration. The crude crystals were purified by preparative HPLC to give the title compound (59 mg) as white crystals.

reactant | N-{1,1-Bis(acetoxymethyl)-3-[2′-fluoro-4′-(4-methylphenoxy)biphenyl-4-yl]propyl}acetamide | 0.26 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)C1=C(C=C(C=C1)OC1=CC=C(C=C1)C)F)(COC(C)=O)NC(C)=O | C30H32FNO6
reactant | lithium hydroxide | 1M, 10 mL | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-amino-2-{2-[2′-fluoro-4′-(4-methylphenoxy)biphenyl-4-yl]ethyl}propane-1,3-diol | 59 mg | NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)OC1=CC=C(C=C1)C)F | C24H26FNO3
